US08492549B2
3-Allyloxymethyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methyl-piperidine
The procedure described above for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine was repeated except that allyl bromide was used instead of methyl iodide.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC | C17H25NO3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 3-Allyloxymethyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methyl-piperidine | C(C=C)OCC1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)C | C19H27NO3
